US04039676
The mixture of 2 g of 2-[2-(4-hydroxy-4-phenylpiperidino)ethyl]-1,4-benzodioxan hydrochloride, 4 ml of propionic anhydride and 4 ml of pyridine is stirred and refluxed for 10 minutes. It is diluted with diethyl ether, the semi-solid filtered off, washed with diethyl ether and recrystallized from isopropanol-diethyl ether, to yield the 2-[2-(4-propionyloxy-4-phenylpiperidino)-ethyl]-1,4-benzodioxan hydrochloride melting at 170° with decomposition.

reactant | 2-[2-(4-hydroxy-4-phenylpiperidino)ethyl]-1,4-benzodioxan hydrochloride | 2 g | Cl.OC1(CCN(CC1)CCC1COC2=C(O1)C=CC=C2)C2=CC=CC=C2
reactant | propionic anhydride | 4 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | pyridine | 4 ml | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-[2-(4-propionyloxy-4-phenylpiperidino)-ethyl]-1,4-benzodioxan hydrochloride | Cl.C(CC)(=O)OC1(CCN(CC1)CCC1COC2=C(O1)C=CC=C2)C2=CC=CC=C2 | InChI=1S/C24H29NO4.ClH/c1-2-23(26)29-24(19-8-4-3-5-9-19)13-16-25(17-14-24)15-12-20-18-27-21-10-6-7-11-22(21)28-20;/h3-11,20H,2,12-18H2,1H3;1H
